US06900209B2
Step 6: Methanesulfonic acid 2-{6-[3-(5-Methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-3-yl}ethyl ester
Methanesulfonyl chloride (96 μl, 1.22 mmol) was added to an ice-cold solution of 2-{6-[3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-3-yl}ethanol (250 mg, 0.62 mmol) and Et3N (173 μl, 122 mmol) in CH2Cl2 (50 ml) at 0° C. under nitrogen. The resulting mixture was stirred at 0° C. for 1 h, then diluted with CH2Cl2 (50 ml). The resultant solution was washed with H2O (50 ml), HCl (40 ml) and NaHCO3 solution (sat., 40 ml). The colourless solution was dried (MgSO4) and concentrated under reduced pressure. The resultant mesylate was used directly without any further purification.

reactant | Methanesulfonyl chloride | 1.22 mmol, 96 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-{6-[3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-3-yl}ethanol | 0.62 mmol, 250 mg | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=CC=C(C=N2)CCO | C21H18N6O3
reactant | Et3N | 122 mmol, 173 μl | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-{6-[3-(5-Methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-3-yl}ethyl ester | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=CC=C(C=N2)CCOS(=O)(=O)C | C22H20N6O5S
